US05023250
A solution of 3β-benzoyloxy-4,4-dimethyl-5α-cholest-8(14)-en-7-one (5 g, 9.4 mmole) in toluene (75 mL) at 0° C. under an argon atmosphere was treated with a solution of diethyl aluminum cyanide (1.4 M in toluene, 12.7 mL, 17 mmole). The reaction mixture was stirred at 0° C. for 0.5 hours, poured into 1N sodium hydroxide solution and extracted with methylene chloride. The organic phase was washed with water, dried and concentrated to one half the volume. An equal volume of methanol was added, the mixture was placed in a cold water bath and sodium borohydride (0.75 g) was added in portions. The mixture was stirred for 0.5 hours at ambient temperature, poured into brine, the layers separated and the organic layer was dried and concentrated to give 4.5 g (85%) of 3β-benzoyloxy-14α-cyano-4,4-dimethyl-5α-cholestan-7-ol; mp 270°-271° C. (from CH2Cl2 ).

reactant | 3β-benzoyloxy-4,4-dimethyl-5α-cholest-8(14)-en-7-one | 9.4 mmole, 5 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C([C@@H]2CC(C3=C4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)(C)C | C36H52O3
reactant | diethyl aluminum cyanide | 17 mmole, 1.4 M, 12.7 mL | [C-]#N.C(C)[Al+]CC
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 3β-benzoyloxy-14α-cyano-4,4-dimethyl-5α-cholestan-7-ol | 4.5 g, 85% | C(C1=CC=CC=C1)(=O)O[C@@H]1C([C@@H]2CC([C@H]3[C@@]4(CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C#N)O)(C)C | C37H55NO3
